US07781426B2
To a solution of benzyl trans-4-(2-ethoxy-2-oxoethyl)cyclohexanecarboxylate (52.4 g, 0.172 mol) in MeOH (500 mL) was added 10% Pd/C (5 g). The reaction was hydrogenated at 40 psi for 1 hour and then the catalyst was removed by filtration. The filtrate was concentrated to afford trans-4-(2-ethoxy-2-oxoethyl)cyclohexanecarboxylic acid. 1H NMR (CDCl3, 500 MHz) δ 4.12 (q, J=7.1 Hz, 2H), 2.24 (m, 1H), 2.19 (d, J=7.1 Hz, 2H), 1.98-2.04 (m, 2H), 1.81-1.87 (m, 2H), 1.77 (m, 1H), 1.46 (qd, J=13.0, 3.4 Hz, 2H), 1.24 (t, J=7.1 Hz, 3H), 1.02 (qd, J=13.0, 3.4 Hz, 2H).

reactant | benzyl trans-4-(2-ethoxy-2-oxoethyl)cyclohexanecarboxylate | 0.172 mol, 52.4 g | C(C)OC(C[C@@H]1CC[C@H](CC1)C(=O)OCC1=CC=CC=C1)=O | C18H24O4
solvent | MeOH | 500 mL | CO | CH4O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | trans-4-(2-ethoxy-2-oxoethyl)cyclohexanecarboxylic acid | C(C)OC(C[C@@H]1CC[C@H](CC1)C(=O)O)=O | C11H18O4
